US08115006B2
(6) Preparation of phenyl 3-amino-1-(3-chloropyridin-2-yl)-1H-5-pyrazolecarboxylate
0.6 g of a 10% Pd—C powder was added to an acetic acid (50 ml) solution comprising 3.0 g of phenyl 3-benzyloxycarbonylamino-1-(3-chloropyridin-2-yl)-1H-5-pyrazolecarboxylate obtained by repeatedly carrying out the above step (5), followed by stirring in hydrogen atmosphere at room temperature for 12 hours. The reaction solution was subjected to filtration with celite, and then the filtrate and the liquid obtained after washing the celite were concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate) to obtain 1.1 g of crystals of the desired product (melting point: 140.4° C.).

reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
reactant | phenyl 3-benzyloxycarbonylamino-1-(3-chloropyridin-2-yl)-1H-5-pyrazolecarboxylate | 3.0 g | C(C1=CC=CC=C1)OC(=O)NC1=NN(C(=C1)C(=O)OC1=CC=CC=C1)C1=NC=CC=C1Cl | C23H17ClN4O4
solvent | hydrogen | [H][H] | H2
catalyst | Pd—C | [Pd] | Pd
product | phenyl 3-amino-1-(3-chloropyridin-2-yl)-1H-5-pyrazolecarboxylate | 1.1 g | NC1=NN(C(=C1)C(=O)OC1=CC=CC=C1)C1=NC=CC=C1Cl | C15H11ClN4O2
